US08115006B2
(4) Preparation of 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide
0.11 g potassium tert-butoxide was added to a mixed solution comprising 0.19 g of 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide, 0.30 g of pentyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate and 3 ml of dimethyl sulfoxide, followed by reaction at room temperature for 45 minutes. The reaction liquid was slowly added to 40 ml of diluted hydrochloric acid. The mixed liquid was subjected to extraction with ethyl acetate, and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=8/2 to 7.5/2.5) to obtain 0.058 g of the desired product (melting point: 231 to 233° C.) in the form of white crystals.

reactant | potassium tert-butoxide | 0.11 g | CC(C)([O-])C.[K+]
reactant | 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide | 0.19 g | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1)Cl | C12H15ClN2O
reactant | pentyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 0.30 g | BrC1=NN(C(=C1)C(=O)OCCCCC)C1=NC=CC=C1Cl | C14H15BrClN3O2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 0.058 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)C1=NC=CC=C1Cl | C21H18BrCl2N5O2
